US06794406B2
tert-Butyl (4-hydroxy-3,5-dimethylphenoxy)acetate
10 g of dimethylhydroquinone are dissolved in 750 ml of a mixture of 40% DMF and 60% THF and treated with 117 g of caesium carbonate. 14.1 g of tert-butyl bromoacetate are added dropwise at −25° C. and the reaction mixture is stirred for 17 hours at room temperature. After addition of 10 g of potassium carbonate the reaction mixture is stirred for 24 hours at room temperature, poured onto water and extracted twice with ethyl acetate. The combined organic phases are washed with NaCl solution, dried over sodium sulphate and the solvent is removed in vacuo. By chromatographic purification (cyclohexane/ethyl acetate) 1.27 g of tert-butyl (4-hydroxy-3,5-dimethylphenoxy)acetate are obtained.

reactant | dimethylhydroquinone | 10 g | CC=1C(=C(O)C=CC1O)C | C8H10O2
reactant | caesium carbonate | 117 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | tert-butyl bromoacetate | 14.1 g | BrCC(=O)OC(C)(C)C | C6H11BrO2
reactant | potassium carbonate | 10 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | CN(C)C=O | C3H7NO
solvent | THF | C1CCOC1 | C4H8O
product | tert-Butyl (4-hydroxy-3,5-dimethylphenoxy)acetate | OC1=C(C=C(OCC(=O)OC(C)(C)C)C=C1C)C | C14H20O4
